US04870074
Preparation of 5-chloro-N-[[4-[3-(4-chlorophenoxy)propyl]-2-morpholinyl]methyl]-4-dimethylamino-2-methoxybenzamide
The hemihydrate of the title compound is prepared in substantially the same manner as in Example 6(1), using 2-aminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine and 5-chloro-4-dimethylamino-2-methoxybenzoic acid, respectively, in place of 2-aminomethyl-4-(4-cyanobenzyl)morpholine and 4-amino-5-chloro-2-methoxybenzoic acid in Example 6(1), mp 128°-130° C. (recrystallized from ethanol).

reactant | 2-aminomethyl-4-[3-(4-chlorophenoxy)propyl]morpholine | NCC1CN(CCO1)CCCOC1=CC=C(C=C1)Cl | C14H21ClN2O2
reactant | 5-chloro-4-dimethylamino-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)N(C)C | C10H12ClNO3
product | 5-chloro-N-[[4-[3-(4-chlorophenoxy)propyl]-2-morpholinyl]methyl]-4-dimethylamino-2-methoxybenzamide | ClC=1C(=CC(=C(C(=O)NCC2CN(CCO2)CCCOC2=CC=C(C=C2)Cl)C1)OC)N(C)C | C24H31Cl2N3O4
